US06339096B1
N-benzyloxycarbonyl-4-[4-(dimethylaminomethyl)phenylthio]piperidine
250 mg (1 mmol) of 4-[4-(dimethylaminomethyl)phenylthio]piperidine in 20 ml tetrahydrofuran are combined with 2 ml 2N sodium hydroxide solution and 5 ml water. At ambient temperature 200 mg (1.2 mmol) of benzyl chloroformate in 5 ml tetrahydrofuran are slowly added dropwise. After 1.5 hours at ambient temperature some benzyl chloroformate and sodium hydroxide solution are again added. After the addition of 100 ml ether the mixture is washed with saturated saline solution, the organic phase is dried with magnesium sulphate and concentrated by evaporation. The product obtained after purification by column chromatography (aluminium oxide, petroleum ether/ethyl acetate=4:1, v:v) is converted into the hydrochloride with ethereal hydrochloric acid. 190 mg (45.1% of theory) of the title compound are obtained as a colourless powder, melting point 144° C.

reactant | 4-[4-(dimethylaminomethyl)phenylthio]piperidine | 1 mmol, 250 mg | CN(C)CC1=CC=C(C=C1)SC1CCNCC1 | C14H22N2S
reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | benzyl chloroformate | 1.2 mmol, 200 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-benzyloxycarbonyl-4-[4-(dimethylaminomethyl)phenylthio]piperidine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)SC1=CC=C(C=C1)CN(C)C | C22H28N2O2S
